US04594095
2-cyclopentyloxy-3-(imidazol-1-yl)-2-(methylphenyl)-propanenitrile, hydronitrate
60.7 g (0.188 mol) 2-cyclopentyloxy-2-(2-methylphenyl)-3-methylsulfonyloxy-propanenitrile, 63.9 g (0.938 mol) imidazole and 3.88 ml DMF are stirred for six hours at 160° C. bath temperature. They are then poured into 200 ml water, extracted twice--each time with 200 ml methylene chloride--and the organic phase is then dried with MgSO4. It is then rotated in a vacuum after which the oil is dissolved in 100 ml isopropanol and then reacted dropwise with 10 ml 100% nitric acid, with cooling with ice. Next follows 20 minutes after-stirring with RT, addition of 200 ml acetic ester, and evacuation in a vacuum. In this manner 30.7 g of the title compound are obtained, MP: 160° C. (decomposition).

reactant | 2-cyclopentyloxy-2-(2-methylphenyl)-3-methylsulfonyloxy-propanenitrile | 0.188 mol, 60.7 g | C1(CCCC1)OC(C#N)(COS(=O)(=O)C)C1=C(C=CC=C1)C | C16H21NO4S
reactant | imidazole | 0.938 mol, 63.9 g | N1C=NC=C1 | C3H4N2
reactant | DMF | 3.88 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2-cyclopentyloxy-3-(imidazol-1-yl)-2-(methylphenyl)-propanenitrile | 30.7 g | C1(CCCC1)OC(C#N)(CN1C=NC=C1)C1=C(C=CC=C1)C | C18H21N3O
